US03953429
3α-Hydroxy-17β-methoxycarbonyl-3β-methyl-5α-androstan-11-one.
Bromine (0.54 ml.) was added to a solution of sodium hydroxide (1.5 g.) in water (13 ml.) at -5° over a period of 5 min. Cold dioxan (9 ml.) was then added and the resulting solution was added to a solution of 3α-hydroxy-3β-methyl-5α-pregnane-11,20-dione (1.0 g.) in dioxan (40 ml.) at 0°. The resulting mixture was kept at 5° for 1 hr., neutralised with concentrated hydrochloric acid and poured into water. Excess 2N-hydrochloric acid was then added and the precipitated solid was collected by filtration, dried in vacuo and dissolved in tetrahydrofuran (100 ml.). The resulting solution was treated with excess ethereal diazomethane at room temperature for 15 min. A few drops of acetic acid were then added and the mixture was partitioned between water and ether. The organic layer was washed with water, dried (MgSO4) and evaporated. Recrystallisation of the residue gave the title compound (0.49 g., 45%) as white needles, m.p. 150°; [α]D + 77° (c 1.0). (Found: C, 72.4; H, 9.2. C23H34O4 requires C, 72.7; H, 9.4%)

reactant | Bromine | 0.54 ml | BrBr | Br2
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | 3α-hydroxy-3β-methyl-5α-pregnane-11,20-dione | 1.0 g | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C22H34O3
reactant | hydrochloric acid | Cl | ClH
reactant | dioxan | 40 ml | O1CCOCC1 | C4H8O2
reactant | dioxan | 9 ml | O1CCOCC1 | C4H8O2
solvent | water | 13 ml | O | H2O
product | 3α-Hydroxy-17β-methoxycarbonyl-3β-methyl-5α-androstan-11-one | 0.49 g, 45% | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)OC)C | C22H34O4
